US05854334
2,6-Naphthalenedicarboxylic Acid-Modified THEIC Polyesterimide
72.9 g of ethylene glycol, 192.2 g of THEIC, 83.3 g of dimethyl terephthalate, 104.4 g of dimethyl 2,6-naphthalenedicarboxylate, 220.1 g of trimellitic anhydride, 112.0 g of 4,4'-diaminodiphenylmethane and 0.7 g of tetra-n-butyl titanate are heated at 200° C. to prepare a polyesterimide resin. 96.8 g of distillate are obtained. At 200° C., the batch is diluted with 808.5 g of cresol. The cooled cresolic solution is diluted with 288.5 g of solvent naphtha and catalysed with 11.4 g of cresyl titanate.

reactant | THEIC | 192.2 g | C(CO)N1C(=O)N(C(=O)N(C1=O)CCO)CCO | C9H15N3O6
reactant | dimethyl terephthalate | 83.3 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | dimethyl 2,6-naphthalenedicarboxylate | 104.4 g | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
reactant | 4,4'-diaminodiphenylmethane | 112.0 g | C1=CC(=CC=C1CC=2C=CC(=CC2)N)N | C13H14N2
solvent | cresol | 808.5 g | C1(=CC=CC=C1O)C | C7H8O
solvent | ethylene glycol | 72.9 g | C(CO)O | C2H6O2
product | 2,6-Naphthalenedicarboxylic Acid | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
